US07109229B2
(d) 3-[1-(2-Bromoethyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 3-[1-(2-hydroxyethyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione (7.3 g, 17.7 mmol) in a mixture of CH2Cl2 (360 mL) and THF (240 mL) was added PPh3 (4.6 g, 17.7 mmol) and CBr4 (5.8 g, 17.7 mmol). The reaction mixture was stirred at room temperature and under nitrogen for 1 h. Another equivalent of PPh3 (4.6 g, 17.7 mmol) was added followed by an equivalent of CBr4 (5.8 g, 17.7 mmol). This operation was repeated one more time after 1 h. The reaction was monitored by TLC and was completed after 1 h. The reaction mixture was diluted with EtOAc (300 mL) and washed with saturated aqueous NaHCO3 (500 mL), and brine (500 mL). The organic solution was dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 50% EtOAc/hexanes) gave the title compound (6.5 g, 77%) as a red solid. 1H NMR (300 MHz, DMSO-d6) 11.08 (s, 1H), 7.95 (s, 1H), 7.61 (d, J=7.8 Hz, 1H), 7.23 (d, J=3.1 Hz, 1H), 7.03–6.96 (m, 3H), 6.88 (d, J=6.2 Hz, 1H), 6.47 (d, J=3.1 Hz, 1H), 6.13 (s, 1H), 4.60 (t, J=6.0 Hz, 2H), 3.81 (t, J=6.0 Hz, 2H), 3.69 (s, 3H), 3.65 (s, 3H).

reactant | 3-[1-(2-hydroxyethyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 17.7 mmol, 7.3 g | OCCN1C=C(C2=CC=C(C=C12)OC)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C24H21N3O4
reactant | PPh3 | 17.7 mmol, 4.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 17.7 mmol, 5.8 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 17.7 mmol, 4.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 17.7 mmol, 5.8 g | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 360 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 3-[1-(2-Bromoethyl)-6-methoxy-1H-indol-3-yl]-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 6.5 g, 77% | BrCCN1C=C(C2=CC=C(C=C12)OC)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C24H20BrN3O3
